US08372864B2
202 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-[1-(4-fluorophenyl)ethyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are dissolved in a mixture containing ethyl ether and a few drops of methanol at a temperature close to 20° C. 5 cm3 of a 1M solution of hydrochloric acid in ethyl ether are added. The reaction mixture is concentrated using a rotary evaporator under reduced pressure (5 kPa). The solid obtained is triturated in diisopropyl ether, filtered and dried. 206 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-[1-(4-fluorophenyl)ethyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of an amorphous white solid.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-[1-(4-fluorophenyl)ethyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 202 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)C(C)C2=CC=C(C=C2)F)C=C(C1)F | C38H35F6N3O3
reactant | hydrochloric acid | Cl | ClH
catalyst | methanol | a few drops | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-[1-(4-fluorophenyl)ethyl]-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 206 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)C(C)C2=CC=C(C=C2)F)C=C(C1)F | InChI=1S/C38H35F6N3O3.ClH/c1-22(24-8-10-27(39)11-9-24)47-15-12-30-31(6-3-7-32(30)36(47)50)35(49)46-33(18-23-16-28(40)20-29(41)17-23)34(48)21-45-37(13-14-37)25-4-2-5-26(19-25)38(42,43)44;/h2-11,16-17,19-20,22,33-34,45,48H,12-15,18,21H2,1H3,(H,46,49);1H/t22?,33-,34+;/m0./s1
